US08241670B2
a) Measurement of Blood Glucose Levels in Rats:
A composition contemplated by the instant invention was prepared by dissolving human insulin with spermine and phytic acid in double distilled water (“DDW”) containing NaOH. The solution was then lyophilized and suspended with sodium dodecanoate (SD), octanol and geraniol in a mixture of mineral oil, medium chain triglyceride (MCT) oil and castor oil. Components and concentrations are detailed in Table 1.

reactant | spermine | NCCCNCCCCNCCCN | C10H26N4
reactant | phytic acid | [C@@H]1([C@@H]([C@@H]([C@@H]([C@H]([C@@H]1OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O)OP(=O)(O)O | C6H18O24P6
product | Glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
